US04786638
(Step 1) Preparation of Ethyl N-(5-Bromo-1-naphthoyl)benzimidate
According to the procedure of Soto et al, Synthesis, 483 (1983), a solution of 5-bromo-1-naphthoyl chloride (10.7 g, 39.8 mmol) in dry toluene (30 mL) was added dropwise to a mixture of ethyl benzimidate hydrochloride (7.4 g, 39.8 mmol) and triethylamine (8.9 g, 12.2 mL, 87.6 mmol) in dry toluene (100 mL). The mixture was stirred for 18 hours at room temperature, then heated to 70° C. for 60 hours. The mixture was cooled to room temperature and the preciptated salt removed by filtration and washed with toluene. The filtrate was concentrated in vacuo to give a red oil which crystallized upon drying in vacuo (15.2 g, guant.). This material was of sufficient purity to be used in the subsequent reaction.

reactant | 5-bromo-1-naphthoyl chloride | 39.8 mmol, 10.7 g | BrC1=C2C=CC=C(C2=CC=C1)C(=O)Cl | C11H6BrClO
reactant | ethyl benzimidate hydrochloride | 39.8 mmol, 7.4 g | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | triethylamine | 87.6 mmol, 12.2 mL, 8.9 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl N-(5-Bromo-1-naphthoyl)benzimidate | BrC1=C2C=CC=C(C2=CC=C1)C(=O)N=C(C1=CC=CC=C1)OCC | C20H16BrNO2
